US04736051
20 g (0.057 moles) of mono2-hexyldecyl phosphate having a purity of 92% (AV1=167.2, AV2=329.8) was dispersed in 59.6 ml of 1N sodium hydroxide aqueous solution, at which the acid value of the reaction system was 39.5. While keeping the reaction system at 80° C., 16.5 g (0.178 moles) of epichlorohydrin was gradually added, followed by agitation at the temperature for 8 hours. The acid value of the reaction system was approximately zero, revealing that the conversion rate of the phosphoric monoester was almost 100%. The reaction solution was analyzed by HPLC. The chromatography showed peaks corresponding to hydrolysate or epichlorhidrine and a new reaction product. The resulting product was collected by HPLC and the solvent was distilled off under reduced pressure to obtain 20.5 g (yield 82.3%) of sodium 2-hexyldecyl 2-hydroxy-3-chloropropyl phosphate.

reactant | mono2-hexyldecyl phosphate | 0.057 moles, 20 g | P(=O)(OCC(CCCCCCCC)CCCCCC)([O-])[O-]
reactant | epichlorohydrin | 0.178 moles, 16.5 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 1N, 59.6 ml | [OH-].[Na+]
product | sodium 2-hexyldecyl 2-hydroxy-3-chloropropyl phosphate | 20.5 g, yield 82.3% | P(=O)(OCC(CCCCCCCC)CCCCCC)(OCC(CCl)O)[O-].[Na+] | InChI=1S/C19H40ClO5P.Na/c1-3-5-7-9-10-12-14-18(13-11-8-6-4-2)16-24-26(22,23)25-17-19(21)15-20;/h18-19,21H,3-17H2,1-2H3,(H,22,23);/q;+1/p-1
